US04470977
A solution of 1.2 g of sodium nitrite in 3 mL of water was added dropwise to a solution of 2 g (0.011 mole) of methyl 3-amino-2-methoxybenzoate in 15 mL of conc. HCl kept below 10° C. After completing the addition, stirring was continued for 0.5 hour at 0° C. The cold solution was then added dropwise to a solution of 2.5 g of cuprous chloride in 6 mL of concentrated HCl at 80°-85° C. After stirring at this temperature for 0.5 hour, the solution was chilled to precipitate an oil which was taken up in methylene chloride. After drying and removing the solvent, the oil obtained above was dissolved in 75 mL of methanol containing 7 mL of 10% NaOH. The solution was heated under reflux for 0.5 hour. After evaporation, the oil was treated with 40 mL of dilute HCl. A white solid precipitated to give 0.5 g (24%) of 3-chloro-2-methoxybenzoic acid after crystallization from ethyl acetate-hexane.

reactant | sodium nitrite | 1.2 g | N(=O)[O-].[Na+]
reactant | methyl 3-amino-2-methoxybenzoate | 0.011 mole, 2 g | NC=1C(=C(C(=O)OC)C=CC1)OC | C9H11NO3
reactant | HCl | 15 mL | Cl | ClH
reactant | HCl | 6 mL | Cl | ClH
solvent | water | 3 mL | O | H2O
solvent | methanol | 75 mL | CO | CH4O
solvent | NaOH | [OH-].[Na+]
product | 3-chloro-2-methoxybenzoic acid | 0.5 g, 24% | ClC=1C(=C(C(=O)O)C=CC1)OC | C8H7ClO3
